US05616586
9-Bromo-5-iodomethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A mixture of 9-bromo-5-methylsulfonyloxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (2.3 g, 5.91 mmol) and sodium iodide (7.9 g, 52.7 mmol) in DMF (30 mL) was heated at 60° C. for 22 h and poured into water (400 mL). The precipitates formed was collected by filtration, washed with water, and dried in vacuo to give 1.95 g of the title compound (78%): mp 260°~270.5° C.; 1H NMR (270 MHz, CD3OD) δ7.22 (s, 1H), 7.19 (s, 1H), 4.95~5.07 (m, 1H), 3.50 (dd, 1H, J=10.2, 4 Hz), 3.24 (d, 1H, J=10.2 Hz), 2.97 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.84 (dm, 1H, J=17.1 Hz), 2.70 (dm, 1H, J=13.5 Hz), 1.90~2.07 (m, 1H).

reactant | 9-bromo-5-methylsulfonyloxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 5.91 mmol, 2.3 g | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)COS(=O)(=O)C | C13H13BrN2O5S
reactant | sodium iodide | 52.7 mmol, 7.9 g | [I-].[Na+]
reactant | water | 400 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 9-Bromo-5-iodomethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1.95 g, 78% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CI | C12H10BrIN2O2
